US08053438B2
Diisopropylamine (1.7 mL, 12.0 mmol) was taken up in 30 mL of THF and chilled to −78° C. N-butyllithium (4.8 mL, 2.5 M in hexanes) was added to the mixture. After 5 minutes, dihydro-2H-pyran-3(4H)-one (1.0 g, 10.0 mmol) was added slowly in 8 mL of THF. After 10 minutes, N-phenyltriflimide (3.9 g, 11 mmol) was added slowly in 8 mL of THF. After 15 minutes, the mixture was warmed to rt. The mixture was stirred for 1.5 hours and quenched with 30 mL of aq NaHCO3. The mixture was then extracted twice with 35 mL of ether and the combined organic extracts were washed with 25 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5% to 20% EtOAc/hexanes) afforded 3,4-dihydro-2H-pyran-5-yl trifluoromethanesulfonate.

reactant | Diisopropylamine | 12.0 mmol, 1.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | N-butyllithium | 2.5 M, 4.8 mL | [Li+].CCC[CH2-]
reactant | dihydro-2H-pyran-3(4H)-one | 10.0 mmol, 1.0 g | O1CC(CCC1)=O | C5H8O2
reactant | N-phenyltriflimide | 11 mmol, 3.9 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3,4-dihydro-2H-pyran-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1CCCOC1)(F)F | C6H7F3O4S
